datasets/10k_Mayr_OG.csv
SMILES Labelled
"C[Sn:63](C)(C)[CH2:62][CH:11]([H:10])[C:71]1=[CH:72][CH:73]=[C:74](Cl)[CH:83]=[CH:82]1.O=[N+]([O-])[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1>>C[Sn:63](C)(C)[CH2:62][CH+:11][C:71]1=[CH:72][CH:73]=[C:74](Cl)[CH:83]=[CH:82]1.O=[N+]([O-])[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([H:10])[CH:21]=[N+:22]([O-:23])[O-:33])[CH:46]=[CH:45]1 10,11=10,20;20,21=21,22;22,23=23"
"COC1=CC=CC(OC)=C1[N+]1=C([C:22](/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=[O:23])N(C)C=C1.[O+]#C[Mn-5:11](C#[O+])(C#[O+])(C#[O+])(C#[O+])[H:10]>>COC1=CC=CC(OC)=C1[N+]1=C([C:22](=[CH:21][CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[O-:23])N(C)C=C1.[O+]#C[Mn-4:11](C#[O+])(C#[O+])(C#[O+])C#[O+] 10,11=10,20;20,21=21,22;22,23=23"
"CC[O:61]/[C:11](=[C:10](/[C:72](=[O:73])[O:83]CC)[C:91]1=[CH:92][CH:93]=[C:94]([O:95]C)[CH:103]=[CH:102]1)[O-:12].F[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CC[O:61][C:11]([C:10]([CH:20]([C:31]1=[CH:32][CH:33]=[C:34](F)[CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]1)([C:72](=[O:73])[O:83]CC)[C:91]1=[CH:92][CH:93]=[C:94]([O:95]C)[CH:103]=[CH:102]1)=[O:12] 10,11=10,20;12=11,12"
"C[C:22]1=[NH+:23]C2=C(C=CC=C2)/[C:21]1=[CH:20]\[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1.[CH:10]1=[C:11]([O-:12])[NH:82][C:73](=[S:74])[NH:82][C:61]1=[O:62]>>C[C:22]1=[C:21]([CH:20]([CH:10]2[C:11](=[O:12])[NH:82][C:73](=[S:74])[NH:82][C:61]2=[O:62])[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C2=C(C=CC=C2)[NH:23]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"[CH2:20]=[CH:21][C:22]#[N:23].[N-:10]=[N+:11]=[N-:12]>>[N-:10]([N+:11]#[N:12])[CH2:20][CH:21]=[C:22]=[N-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CCC(C)[Sn:63](C(C)CC)(C(C)CC)[CH:62](C)[CH:11](C)[H:10].O=[N+]([O-])[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]2=[N:42]O[N:35]=[C:34]12>>CCC(C)[Sn:63](C(C)CC)(C(C)CC)[CH:62](C)[CH+:11]C.O=[N+]([O-])[C:33]1=[CH:32][C:21](=[N+:22]([O-])[O-:23])[CH:20]([H:10])[C:41]2=[N:42]O[N:35]=[C:34]12 10,11=10,20;20,21=21,22;22,23=23"
CC(C)[C@@H]1C[N:62]2C3=C(C=CC=C3)[S:72][C:61]2=[N:10][C@@H]1C1=CC=CC=C1.C[N:49](C)[C:46]1=[CH:45][CH:44]=[C:43]([C:42](=[CH:41][CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]2)[CH:48]=[CH:47]1>>CC(C)[C@@H]1C[N:62]2C3=C(C=CC=C3)[S:72][C:61]2=[N+:10]([CH:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:41]=[C:42]([C:43]2=[CH:44][CH:45]=[C:46]([N:49](C)C)[CH:47]=[CH:48]2)[C:53]2=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]2)[C@@H]1C1=CC=CC=C1 10=20
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][C:43]2=[C:44](N(C)CCC2)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].C[Si:63](C)(C)[O:12][C:11]1=[CH:10]CCCC1>>CC[O:34][C:32]([C:21]([CH:20]([CH:10]1CCCC[C:11]1=[O+:12][Si:63](C)(C)C)[C:41]1=[CH:42][C:43]2=[C:44](N(C)CCC2)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1/C=C/C1=CC=CC=C1.[H][B-:11]([H])([H])[H:10]>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1/C=C/C1=CC=CC=C1.[H][B:11]([H])[H] 10,11=10,20;20,21=21,22;22,23=23"
"CC1=CC(C)=C([N+:61]2=[C-:10][N:71](C3=C(C)C=C(C)C=C3C)CC2)C(C)=C1.CC[O:33][C:22](/[CH:21]=[CH:20]/[C:41](=[O:42])[O:52]CC)=[O:23]>>CC[O:33][C:22](=[CH:21][CH:20]([C:10]1=[N+:61](C2=C(C)C=C(C)C=C2C)CC[N:71]1C1=C(C)C=C(C)C=C1C)[C:41](=[O:42])[O:52]CC)[O-:23] 10=20;20,21=21,22;22,23=23"
"C[Si:11](C)([H:10])[CH2:62][Sn:63](C)(C)C.O=[N+]([O-])[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]12>>C[Si+:11](C)[CH2:62][Sn:63](C)(C)C.O=[N+]([O-])[C:33]1=[CH:32][C:21](=[N+:22]([O-])[O-:23])[CH:20]([H:10])[C:41]2=[N+:42]([O-])O[N:35]=[C:34]12 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC=C(/[C:10](=[C:11](\[O-:12])[C:61]2=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]2)[C:81]#[N:82])C=C1.Cl[C:20]1=[CH:21][C:22](=[O:23])[C:30](Cl)=[CH:31][C:32]1=[O:33]>>Cl[C:20]1([C:10](C2=CC=CC=C2)([C:11](=[O:12])[C:61]2=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]2)[C:81]#[N:82])[CH:21]=[C:22]([O-:23])[C:30](Cl)=[CH:31][C:32]1=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC(C)(C)[O:33][C:22]([CH:21]=[CH2:20])=[O:23].CC1=C[C:71]2=[C:72](C=C1C)[NH:62][CH:61]=[N:10]2>>CC1=C[C:71]2=[C:72](C=C1C)[NH:62][CH:61]=[N+:10]2[CH2:20][CH:21]=[C:22]([O-:23])[O:33]C(C)(C)C 10=20;20,21=21,22;22,23=23"
"C1=CC=C(O[P+](OC2=CC=CC=C2)(OC2=CC=CC=C2)[Pd-:21]23([P+](OC4=CC=CC=C4)(OC4=CC=CC=C4)OC4=CC=CC=C4)C(C4=CC=CC=C4)C2[CH2:20]3)C=C1.CC[O:61]/[C:11](=[C:10](\C1CCCCC1)[C:72](=[O:73])[O:83]CC)[O-:12]>>CC[O:61][C:11]([C:10](C1CCCCC1)([CH2:20]C1C(C2=CC=CC=C2)[Pd-2:21]1([P+](OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1)[P+](OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1)[C:72](=[O:73])[O:83]CC)=[O:12] 10,11=10,20;12=11,12;20,21=21"
